US05250548
2-Hydroxy-5-nitronicotinic acid
2-Hydroxynicotinic acid was added portionwise to sulfuric acid (50 mL) at 0° C. After complete dissolution, nitric acid (3 mL) was added dropwise to the cooled solution. After the addition was complete, the bath was removed and the solution stirred overnight at ambient temperature. The solution was then heated at 50°-70° C. for one and a half hours. The solution was cooled to ambient temperature and poured onto ice (100 g). The pale yellow solid which resulted was collected by filtration and dried in vacuo at 50° C. to give 7.3 g (87% yield) of the title compound which was used without further purification. 1H NMR (DMSO-d6, 300 MHz) δ 8.51 (d, 1H,J=3), 9.01 (d,2H,J=3).

reactant | 2-Hydroxynicotinic acid | OC1=C(C(=O)O)C=CC=N1 | C6H5NO3
reactant | nitric acid | 3 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
product | 2-Hydroxy-5-nitronicotinic acid | 7.3 g, 87% yield | OC1=C(C(=O)O)C=C(C=N1)[N+](=O)[O-] | C6H4N2O5
